US09102674B2
Step G: Ethyl 2-(7-((3-chlorobenzyl)oxy)quinolin-3-yl)acetate.
A solution of ethyl 2-(2-chloro-7-((3-chlorobenzyl)oxy)quinolin-3-yl)acetate (5 g, 12.8 mmol) in THF (50 mL) was degassed with nitrogen for 5 minutes and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (1.36 g, 1.67 mmol) was added, followed by N1,N1,N2,N2-tetramethylethane-1,2-diamine (3.84 mL, 25.6 mmol) and sodium tetrahydroborate (969 mg, 25.6 mmol). The resulting solution was stirred at ambient temperature. After 4 h an additional portion of 1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (50 mg, 0.06 mmol) and sodium tetrahydroborate (969 mg, 25.6 mmol) were added and stirred overnight. The reaction was quenched into sat. aqueous NH4Cl and extracted with EtOAc (3×30 mL). The combined organic layers were dried over MgSO4 and concentrated under reduced pressure to afford a brown oil. Purification (FCC, SiO2, 0-60%, EtOAc/hexanes) afforded the title compound as a colorless oil (2.5 g, 55%) that crystallized upon standing. 1H NMR (400 MHz, CDCl3) 8.76 (d, J=2.3 Hz, 1H), 8.02 (s, 1H), 7.71 (d, J=9.0 Hz, 1H), 7.52-7.43 (m, 2H), 7.32 (dd, J=6.5, 12.7 Hz, 4H), 5.19 (s, 2H), 4.18 (q, J=7.0 Hz, 2H), 3.77 (s, 2H), 1.26 (t, J=7.0 Hz, 3H). [M+H]=356.2.

reactant | ethyl 2-(2-chloro-7-((3-chlorobenzyl)oxy)quinolin-3-yl)acetate | 12.8 mmol, 5 g | ClC1=NC2=CC(=CC=C2C=C1CC(=O)OCC)OCC1=CC(=CC=C1)Cl | C20H17Cl2NO3
reactant | dichloromethane | 1.67 mmol, 1.36 g | ClCCl | CH2Cl2
reactant | N1,N1,N2,N2-tetramethylethane-1,2-diamine | 25.6 mmol, 3.84 mL | CN(CCN(C)C)C | C6H16N2
reactant | sodium tetrahydroborate | 25.6 mmol, 969 mg | [BH4-].[Na+]
reactant | sodium tetrahydroborate | 25.6 mmol, 969 mg | [BH4-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) | Cl[Pd]Cl
catalyst | dichloromethane | 0.06 mmol, 50 mg | ClCCl | CH2Cl2
product | Ethyl 2-(7-((3-chlorobenzyl)oxy)quinolin-3-yl)acetate | 2.5 g, 55% | ClC=1C=C(COC2=CC=C3C=C(C=NC3=C2)CC(=O)OCC)C=CC1 | C20H18ClNO3
